US07977331B1
To a solution of methyl 3-benzyloxy-12-cyclohexyl-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate (173 mg, 0.36 mmol) in methanol (3.5 ml) and tetrahydrofuran (3.5 ml) was added 4N aqueous sodium hydroxide solution (1.7 ml), and the mixture was stirred for 13 hr. To the reaction mixture were added 2N hydrochloric acid (3.7 ml) and water, and the precipitated solid was collected by filtration and dried in vacuo. The obtained solid was purified by silica gel chromatography (hexane:ethyl acetate=1:1) to give 3-benzyloxy-12-cyclohexyl-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylic acid (81 mg, yield 48%).

reactant | methyl 3-benzyloxy-12-cyclohexyl-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate | 0.36 mmol, 173 mg | C(C1=CC=CC=C1)OC1=CC2=C(C3=C(C4=C(N3CCO2)C=C(C=C4)C(=O)OC)C4CCCCC4)C=C1 | C31H31NO4
reactant | sodium hydroxide | 4N, 1.7 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N, 3.7 ml | Cl | ClH
reactant | water | O | H2O
solvent | methanol | 3.5 ml | CO | CH4O
solvent | tetrahydrofuran | 3.5 ml | O1CCCC1 | C4H8O
product | 3-benzyloxy-12-cyclohexyl-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylic acid | 81 mg, yield 48% | C(C1=CC=CC=C1)OC1=CC2=C(C3=C(C4=C(N3CCO2)C=C(C=C4)C(=O)O)C4CCCCC4)C=C1 | C30H29NO4
